**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT bdw42 1 2 3
* Model generated on Dec 24, 2003
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 12.1645
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 60
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=9.70771 N=0.997077 XTI=2.99708
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=9.94299e-13 BF=121.091 NF=1.13198 VAF=48.6828
+IKF=0.137786 ISE=1.35244e-12 NE=1.64448 BR=0.997077
+NR=0.997061 VAR=71.2996 IKR=0.0999708 ISC=1e-13
+NC=1.99708 RB=9.69696 IRB=0.197077 RBM=9.69696
+RE=0.100077 RC=0.992187 XTB=0.493525 XTI=2.99717 EG=1.11061
+CJE=2.61529e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.56193e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=9.94299e-13 BF=121.091 NF=1.13198 VAF=48.6828
+IKF=0.137786 ISE=1.35244e-12 NE=1.64448 BR=0.997077
+NR=0.997061 VAR=71.2996 IKR=0.0999708 ISC=1e-13
+NC=1.99708 RB=9.69696 IRB=0.197077 RBM=9.69696
+RE=0.100077 RC=0.992187 XTB=0.493525 XTI=2.99717 EG=1.11061
+CJE=2.61529e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS
